US08865752B2
To a solution of 1-(2-bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine (76 mg, 0.2 mmol) in THF (10 mL) at −78° C. was added t-BuLi (0.24 mL, 1.7 M solution) and the reaction was stirred for 15 min. Dry CO2 was bubbled for 1 h while allowing the reaction to warm to 0° C. Water was added and extracted with DCM. The water layer was neutralized and evaporated. The residue was extracted with methanol to afford 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carboxylic acid. MS ESI: m/Z 345.26 [M+H+].

reactant | 1-(2-bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine | 0.2 mmol, 76 mg | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)C)N2C=NC=C2 | C16H19BrN4S
reactant | t-BuLi | 1.7 M, 0.24 mL | [Li]C(C)(C)C
reactant | Water | O | H2O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carboxylic acid | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C(=O)O)C=C1)CC)C | C17H20N4O2S
